US04383945
To a solution of benzyl 2-[(3S,4S)-4-allyl-3-phthalimido-2-oxo-azetidin-1-yl]-3-methyl-2-butenoate (340 mg) in a mixture of methylene chloride (5 ml) and methanol (2.5 ml) was added N,N-dimethyl-1,3-propanediamine (0.21 ml) and the mixture was stirred at room temperature for 25 hours. After removal of the solvent by evaporation, the residue was dissolved in ethyl acetate and washed with water. Drying over magnesium sulfate and evaporation gave an oil, which was chromatographed on silica gel (3 g) eluting with a mixture of methylene chloride and acetone (6:1) to give benzyl 2-[(4S)-4-allyl-3-amino-2-oxoazetidin-1-yl]-3-methyl-2-butenoate (155 mg) as an oil.

reactant | benzyl 2-[(3S,4S)-4-allyl-3-phthalimido-2-oxo-azetidin-1-yl]-3-methyl-2-butenoate | 340 mg | C(C=C)[C@H]1[C@@H](C(N1C(C(=O)OCC1=CC=CC=C1)=C(C)C)=O)N1C(C=2C(C1=O)=CC=CC2)=O | C26H24N2O5
reactant | N,N-dimethyl-1,3-propanediamine | 0.21 ml | CN(CCCN)C | C5H14N2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 2.5 ml | CO | CH4O
product | benzyl 2-[(4S)-4-allyl-3-amino-2-oxoazetidin-1-yl]-3-methyl-2-butenoate | 155 mg | C(C=C)[C@H]1C(C(N1C(C(=O)OCC1=CC=CC=C1)=C(C)C)=O)N | C18H22N2O3
